* Subcircuit OPA656 (230MHz FET-Input)
.subckt OPA656 IN_PLUS IN_MINUS VCC VEE OUT

* 1. High Impedance JFET Input (100 Megohm)
r1 IN_PLUS IN_MINUS 100meg

* 2. 230MHz Gain/Filter Stage 
* (Turns voltage difference into current, pushes into RC filter)
gm1 gnd RC_Node IN_PLUS IN_MINUS 1
r2 RC_Node gnd 100k
c1 RC_Node gnd 690pf

* 3. Output Buffer Stage
* (Reads filter voltage, pushes to output through 50 ohm impedance)
e1 e1_out gnd RC_Node gnd 1
r5 e1_out OUT 50

* 4. Dummy Power Pins (Prevents floating errors)
r3 VCC gnd 1g
r4 VEE gnd 1g

.ends OPA656