.title KiCad schematic
.include "E:/Projects/OpenDAQ-MixedSignal-AFE/simulations_spice/CSP_FrontEnd_Simulation/opa656.sub"
v2 __v2
Cd1 Net-_X1-IN_MINUS_ GND 70p
v3 __v3
R3 GND /vout 100
Cf1 Net-_X1-IN_MINUS_ /vout 1p
R1 /vout Net-_X1-IN_MINUS_ 50Meg
X1 GND Net-_X1-IN_MINUS_ Net-_X1-VCC_ Net-_X1-VEE_ /vout OPA656
I1 GND Net-_X1-IN_MINUS_ EXP( 0 100u 10n 1n 11n 10n ) 
.end
