.title kicad schematic

.include opa656.sub
v1 /vin gnd sine(0 0.1 10meg)
x1 /vin net-_r1-pad1_ net-_x1-pad3_ net-_x1-pad4_ /vout opa656
r1 net-_r1-pad1_ /vout 250
r3 gnd /vout 100
v2 net-_x1-pad3_ gnd 5
v3 gnd net-_x1-pad4_ 5
r2 net-_r1-pad1_ gnd 250
.tran 1e-09 1e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
